US06489328B2
A solution of 6-chloro anthranilic acid (2.12 g, 12.3 mmol) and triazine (1.0 g, 12.3 mmol) in EtOH (40 mL) containing piperidine (3 drops) was heated under reflux with stirring for 8 h. On cooling crystals formed, which were filtered to yield 5-chloroquinazolin-4-one (1.55 g, 70%).

reactant | 6-chloro anthranilic acid | 12.3 mmol, 2.12 g | ClC=1C=CC=C(C1C(=O)O)N | C7H6ClNO2
reactant | triazine | 12.3 mmol, 1.0 g | N1=NN=CC=C1 | C3H3N3
solvent | EtOH | 40 mL | CCO | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 5-chloroquinazolin-4-one | 1.55 g, 70% | ClC1=C2C(NC=NC2=CC=C1)=O | C8H5ClN2O
